datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1cc(Cc2cc(O)ccc2C)c([O-:10])c([N+](=O)[O-])c1.O=C(O)[C@@H](P)CC[C@H](P)C(=O)[O:21][H:20]>>Cc1cc(Cc2cc(O)ccc2C)c([O:10][H:20])c([N+](=O)[O-])c1.O=C(O)[C@@H](P)CC[C@H](P)C(=O)[O-:21] 10=20;20,21=21",
"C[N+:21](C)(CCCCC(=O)Oc1ccc([N+](=O)[O-])cc1)[H:20].Clc1ccc([O-:10])c2ccccc12>>C[N:21](C)CCCCC(=O)Oc1ccc([N+](=O)[O-])cc1.Clc1ccc([O:10][H:20])c2ccccc12 10=20;20,21=21",
"O=C(C12CC3CC(CC(F)(C3)C1)C2)[O-:10].O=S(Cc1ccccc1)c1cnn[n:21]1[H:20]>>O=C(C12CC3CC(CC(F)(C3)C1)C2)[O:10][H:20].O=S(Cc1ccccc1)c1cnn[n-:21]1 10=20;20,21=21",
"Cn1c[n+:21]([H:20])c2c(N)nc[nH+]c21.N#CC(C#N)=N[N-:10]c1ccc([N+](=O)[O-])cc1>>Cn1c[n:21]c2c(N)nc[nH+]c21.N#CC(C#N)=N[N:10](c1ccc([N+](=O)[O-])cc1)[H:20] 10=20;20,21=21",
"CC[N+:21](CC#N)(CC#N)[H:20].O=C(C[N:10]1CCOCC1)c1ccccc1>>CC[N:21](CC#N)CC#N.O=C(C[N+:10]1([H:20])CCOCC1)c1ccccc1 10=20;20,21=21",
"CCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O-:10].CN(C)c1ccc2c(c1)Sc1cc([N+:21](C)(C)[H:20])ccc1N2>>CCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O:10][H:20].CN(C)c1ccc2c(c1)Sc1cc([N:21](C)C)ccc1N2 10=20;20,21=21",
"CC[NH+](CC)Cc1c(Cl)cccc1[O-:10].O=C([O-])C1CC[NH+:21]1[H:20]>>CC[NH+](CC)Cc1c(Cl)cccc1[O:10][H:20].O=C([O-])C1CC[NH:21]1 10=20;20,21=21",
"Cc1cc([O-:10])c(C(C)C)cc1Nc1ccc([O-])cc1.[O-]c1c2ccccc2cn[n+:21]1[H:20]>>Cc1cc([O:10][H:20])c(C(C)C)cc1Nc1ccc([O-])cc1.[O-]c1c2ccccc2cn[n:21]1 10=20;20,21=21",
"Brc1c[n:10]cc2ccccc12.CCC(C)(C)[NH+:21](c1ccccc1)[H:20]>>Brc1c[n+:10]([H:20])cc2ccccc12.CCC(C)(C)[NH:21]c1ccccc1 10=20;20,21=21",
"COc1cccc2c1-c1c-2cccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1cccc2c1-c1c-2cccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCCCCCCCCCCC[N:10](CC(O)CC)CC(O)CC.NC(N)=[O+:21][H:20]>>CCCCCCCCCCCCCC[N+:10](CC(O)CC)(CC(O)CC)[H:20].NC(N)=[O:21] 10=20;20,21=21",
"CC[NH:10]CCN.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC[NH+:10](CCN)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1nc2c[n+:21]([H:20])ncc2[nH]1.N#CC(C#N)=[N:10]Nc1ccccc1Cl>>COc1cc(S(C)=O)ccc1-c1nc2c[n:21]ncc2[nH]1.N#CC(C#N)=[N+:10](Nc1ccccc1Cl)[H:20] 10=20;20,21=21",
"C/C(=N\[O:21][H:20])C(=O)[N-]O.N#Cc1cccc(S(=O)(=O)[NH-:10])c1>>C/C(=N\[O-:21])C(=O)[N-]O.N#Cc1cccc(S(=O)(=O)[NH:10][H:20])c1 10=20;20,21=21",
"[H][C:21](C(C)=O)(C(C)=O)[H:20].[Se-]CCC[NH2:10]>>[H][C-:21](C(C)=O)C(C)=O.[Se-]CCC[NH2+:10][H:20] 10=20;20,21=21",
"CCC[NH:10]c1ccccc1.N#CC(C#N)=[N+:21](Nc1ccc(/N=N/c2ccccc2)cc1)[H:20]>>CCC[NH+:10](c1ccccc1)[H:20].N#CC(C#N)=[N:21]Nc1ccc(/N=N/c2ccccc2)cc1 10=20;20,21=21",
"O=C1CCC(=O)[N-:10]1.O=[N+]([O-])c1cc(-c2ccccc2)nnc1NCC[N+:21]1([H:20])CCOCC1>>O=C1CCC(=O)[N:10]1[H:20].O=[N+]([O-])c1cc(-c2ccccc2)nnc1NCC[N:21]1CCOCC1 10=20;20,21=21",
"CC1=CC[N:10]2CC[C@@H](O)[C@@H]12.CCC[NH+:21](Cc1ccc(C)cc1)[H:20]>>CC1=CC[N+:10]2([H:20])CC[C@@H](O)[C@@H]12.CCC[NH:21]Cc1ccc(C)cc1 10=20;20,21=21",
"C[C@@H]1C[NH:10]C[C@H](C)[NH2+]1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[C@@H]1C[NH+:10]([H:20])C[C@H](C)[NH2+]1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"NC(=O)[N:21](S(=O)(=O)c1ccc(N)cc1)[H:20].[NH3+]C(Cc1c[n:10]c[nH]1)C(=O)[O-]>>NC(=O)[N-:21]S(=O)(=O)c1ccc(N)cc1.[NH3+]C(Cc1c[n+:10]([H:20])c[nH]1)C(=O)[O-] 10=20;20,21=21",
"C[n+]1ccc(-c2nc3ccccc3[n:21]2[H:20])cc1.Nc1ccc(S(=O)(=O)[N-:10]c2ccn(-c3cccc([N+](=O)[O-])c3)n2)cc1>>C[n+]1ccc(-c2nc3ccccc3[n-:21]2)cc1.Nc1ccc(S(=O)(=O)[N:10](c2ccn(-c3cccc([N+](=O)[O-])c3)n2)[H:20])cc1 10=20;20,21=21",
"COc1cc2c(OC)nc[n+:21]([H:20])c2c(OC)c1OC.Cc1cc(C)c(C)c([NH2:10])c1C>>COc1cc2c(OC)nc[n:21]c2c(OC)c1OC.Cc1cc(C)c(C)c([NH2+:10][H:20])c1C 10=20;20,21=21",
"COC(=O)C(Cc1ccccc1)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>COC(=O)C(Cc1ccccc1)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"N#CC(C#N)=C(C#N)[N:21](C(C#N)=C(C#N)C#N)[H:20].O=[N+]([O-])c1cccc2c[n+](CC[O-:10])ccc12>>N#CC(C#N)=C(C#N)[N-:21]C(C#N)=C(C#N)C#N.O=[N+]([O-])c1cccc2c[n+](CC[O:10][H:20])ccc12 10=20;20,21=21",
"CC1(C)C=CC(C)(c2cc3c(cc2[O:21][H:20])OC(=O)C=C3)CC1.C[N:10](C)CC(CSCc1ccccc1)SCc1ccccc1>>CC1(C)C=CC(C)(c2cc3c(cc2[O-:21])OC(=O)C=C3)CC1.C[N+:10](C)(CC(CSCc1ccccc1)SCc1ccccc1)[H:20] 10=20;20,21=21",
"C=CCc1ccc([O:21][H:20])c(OC)c1.Nc1cccc2cc3ccccc3[n:10]c12>>C=CCc1ccc([O-:21])c(OC)c1.Nc1cccc2cc3ccccc3[n+:10]([H:20])c12 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].NCCCCCCCCCCCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.NCCCCCCCCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"C[N+:21](CC1CO1)(CC1CO1)[H:20].C[N:10](C)CCOC(c1ccccc1)c1ccc(Br)cc1>>C[N+:10](C)(CCOC(c1ccccc1)c1ccc(Br)cc1)[H:20].C[N:21](CC1CO1)CC1CO1 10=20;20,21=21",
"CC(C)(C)[NH+:21](CCO)[H:20].C[N:10]1[C@@H]2CC[C@H]1C[C@H](OC(=O)C(CO)c1ccccc1)C2>>CC(C)(C)[NH:21]CCO.C[N+:10]1([H:20])[C@@H]2CC[C@H]1C[C@H](OC(=O)C(CO)c1ccccc1)C2 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc2c(c1)CNCCC[NH:10]Cc1ccccc1OCCO2>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc2c(c1)CNCCC[NH+:10]([H:20])Cc1ccccc1OCCO2 10=20;20,21=21",
